US09227976B2
Step 6: Synthesis of 2-[4-chloro-5-phenyl-3-(trifluoromethyl)pyrazolo[3,4-c]pyridazin-1-yl]-1-pyrrolidin-1-yl-ethanone (Compound Iaa)
Sodium hydride (18 mg, 0.45 mmol) was added to a solution of 4-chloro-5-phenyl-3-(trifluoromethyl)-1H-pyrazolo[3,4-c]pyridazine (115 mg, 0.38 mmol) and 2-chloro-1-pyrrolidin-1-yl-ethanone (81 mg, 0.55 mmol) in dry DMF (1.5 ml) and the reaction stirred for 21 h. Water and CH2Cl2 where added and the aqueous phase was extracted with CH2Cl2. The organic phases where combined, dried over MgSO4, filtered and evaporated. The residue was purified by column chromatography (silica gel, ethyl acetate/isohexane 2:8 to 1:0) followed by preparative HPLC yielding Compound Iaa as a white solid (23 mg).

reactant | Sodium hydride | 0.45 mmol, 18 mg | [H-].[Na+]
reactant | 4-chloro-5-phenyl-3-(trifluoromethyl)-1H-pyrazolo[3,4-c]pyridazine | 0.38 mmol, 115 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C(F)(F)F | C12H6ClF3N4
reactant | 2-chloro-1-pyrrolidin-1-yl-ethanone | 0.55 mmol, 81 mg | ClCC(=O)N1CCCC1 | C6H10ClNO
reactant | Water | O | H2O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[4-chloro-5-phenyl-3-(trifluoromethyl)pyrazolo[3,4-c]pyridazin-1-yl]-1-pyrrolidin-1-yl-ethanone | 23 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C(F)(F)F)CC(=O)N2CCCC2 | C18H15ClF3N5O
